US08975398B2
tert-butyl 4-(4-(1-(pyridazin-3-yl)azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate
To a 50 mL round-bottomed flask was added tert-butyl 4-(4-(1-(6-chloropyridazin-3-yl)azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate (550 mg, 1.165 mmol) and Pd/C (93 mg, 0.087 mmol). The flask was flushed with nitrogen for 10 minutes and ethanol (11.7 ml) was added. Triethylamine (0.162 ml, 1.165 mmol) and cyclohexa-1,4-diene (654 mg, 8.16 mmol) were added and the reaction was stirred at 80° C. for 1 hour, cooled and filtered through diatomaceous earth. The filtrate was concentrated in vacuo and the residue was purified by regular phase flash column chromatography to give the title compound.

reactant | tert-butyl 4-(4-(1-(6-chloropyridazin-3-yl)azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate | 1.165 mmol, 550 mg | ClC1=CC=C(N=N1)N1CC(C1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C24H30ClN5O3
reactant | Triethylamine | 1.165 mmol, 0.162 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexa-1,4-diene | 8.16 mmol, 654 mg | C1=CCC=CC1 | C6H8
catalyst | Pd/C | 0.087 mmol, 93 mg | [Pd] | Pd
product | tert-butyl 4-(4-(1-(pyridazin-3-yl)azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate | N1=NC(=CC=C1)N1CC(C1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C24H31N5O3
